US08957203B2
1-chloro-6-fluoro-4-methoxyisoquinoline (533 mg, 2.52 mmol) was dissolved in DMSO (5 mL) then NaOEt (171 mg, 2.52 mmol) was added to the solution. The reaction was stirred for 16 h. The reaction was diluted with EtOAc and washed with 1N HCl, then brine. The organic layer was collected, dried over sodium sulfate and concentrated under vacuum. The crude material was purified by silica gel chromatography using DCM as eluent. The product fractions were collected and solvent was removed under vacuum to give 1-chloro-6-ethoxy-4-methoxyisoquinoline (320 mg, 54% yield). MS m/z 238.0 (M++1).

reactant | 1-chloro-6-fluoro-4-methoxyisoquinoline | 2.52 mmol, 533 mg | ClC1=NC=C(C2=CC(=CC=C12)F)OC | C10H7ClFNO
reactant | NaOEt | 2.52 mmol, 171 mg | CC[O-].[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-chloro-6-ethoxy-4-methoxyisoquinoline | 320 mg, 54% yield | ClC1=NC=C(C2=CC(=CC=C12)OCC)OC | C12H12ClNO2
